### PR TITLE
[Merged by Bors] - feat(Algebra/Group/End) : add MulAut.inv_apply and some simp lemmas

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/End.lean [hunk 1]
```diff
@@ -661,6 +661,16 @@ theorem one_def : (1 : MulAut M) = MulEquiv.refl _ :=
 theorem inv_def (e₁ : MulAut M) : e₁⁻¹ = e₁.symm :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/End.lean:661]: Can you add the missing `coe_inv` above too?

File: Mathlib/Algebra/Group/End.lean [hunk 2]
```diff
@@ -661,6 +661,16 @@ theorem one_def : (1 : MulAut M) = MulEquiv.refl _ :=
...
 
+@[simp]
+theorem inv_symm (e : MulAut M) : e⁻¹.symm = e := rfl
+
+@[simp]
+theorem symm_inv (e : MulAut M) : (e.symm)⁻¹ = e := rfl
+
+@[simp]
+theorem inv_apply (e : MulAut M) (m : M) : e⁻¹ m = e.symm m := by
+  rw [inv_def]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/End.lean:672]: Could you put this below `one_apply` to keep the `mul`,`one`,`inv` order used above (or any order you like, consistently)

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/Group/End.lean]: done.

File: Mathlib/Algebra/Group/End.lean [hunk 3]
```diff
@@ -669,6 +669,19 @@ theorem mul_apply (e₁ e₂ : MulAut M) (m : M) : (e₁ * e₂) m = e₁ (e₂
 theorem one_apply (m : M) : (1 : MulAut M) m = m :=
   rfl
 
+@[simp]
+theorem coe_inv (e : MulAut M) : ⇑e⁻¹ = e.symm := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/End.lean:673]: This one should go just below `coe_one`, grouping the `coe` lemmas together.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
